US04474754
18(a). Preparation of Z-Tyr-Ser-Leu-Ser-Thr-Asn-Leu-Gln-Glu-Ser-Leu-Arg-Ser-Lys(Tos)-Glu-OH
42.3 Milligrams of Z-Tyr-Ser-Leu-Ser-NHNH2 was dissolved in 4 ml of dimethylformamide, further 0.34 ml of 10-hold diluted-dimethylformamide solution of 6 NOhydrochloric acid/dioxane was added thereto, and the mixture was cooled to -15° C., then 0.091 ml of 10-hold diluted-dimethylformamide solution of isoamyl nitrite was added with stirring. After the reaction mixture shows a negative reaction in hydrazine-test, 0.29 ml of 10-hold diluted-dimethylformamide solution of triethylamine was added drop by drop in small amounts to neutralize the reaction mixture. This reaction mixture containing azide product was added to 4 ml of a cold dimethylformamide solution containing 50.0 mg of H-Thr-Asn-Leu-Gln-Glu-Ser-Leu-Arg-Ser-Lys(Tos)-Glu-OH and 0.1 ml of 10-fold diluted-dimethylformamide solution of triethylamine, then the whole mixture was stirred at -10° to -15° C. for 2 hours, next at 4° C. for 18 hours. Further, a product being converted 42.3 mg of Z-Tyr-Ser-Leu-Ser-NHNH2 into an azide was added thereto and was reacted for 24 hours. Dimethylformamide was removed by distillation under a reduced pressure, the residue obtained was extracted with 30 ml of n-butanol being saturated with water, the extract was washed 10 times with water being saturated with n-butanol, next washed 5 times with 2%-acetic acid being saturated with n-butanol. The organic layers were collected and subjected to distillation under a reduced pressure to remove n-butanol, then the residue was lyophilized, reprecipitated from ethyl acetate-ether to obtain the desired product.

reactant | Z-Tyr-Ser-Leu-Ser-NHNH2 | N([C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@@H](CO)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CO)C(=O)NN)C(=O)OCC1=CC=CC=C1 | C29H40N6O9
reactant | isoamyl nitrite | N(=O)OCCC(C)C | C5H11NO2
reactant | azide | [N-]=[N+]=[N-]
reactant | H-Thr-Asn-Leu-Gln-Glu-Ser-Leu-Arg-Ser-Lys(Tos)-Glu-OH | 50.0 mg | N[C@@H]([C@H](O)C)C(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCC(N)=O)C(=O)N[C@@H](CCC(O)=O)C(=O)N[C@@H](CO)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N[C@@H](CO)C(=O)N[C@@H](CCCCNS(=O)(=O)C1=CC=C(C)C=C1)C(=O)N[C@@H](CCC(O)=O)C(=O)O | C60H99N17O23S
reactant | Z-Tyr-Ser-Leu-Ser-NHNH2 | 42.3 mg | N([C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@@H](CO)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CO)C(=O)NN)C(=O)OCC1=CC=CC=C1 | C29H40N6O9
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | hydrazine | NN | H4N2
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | dioxane | O1CCOCC1 | C4H8O2
product | Z-Tyr-Ser-Leu-Ser-Thr-Asn-Leu-Gln-Glu-Ser-Leu-Arg-Ser-Lys(Tos)-Glu-OH | N([C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@@H](CO)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CO)C(=O)N[C@@H]([C@H](O)C)C(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCC(N)=O)C(=O)N[C@@H](CCC(O)=O)C(=O)N[C@@H](CO)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N[C@@H](CO)C(=O)N[C@@H](CCCCNS(=O)(=O)C1=CC=C(C)C=C1)C(=O)N[C@@H](CCC(O)=O)C(=O)O)C(=O)OCC1=CC=CC=C1 | C89H135N21O32S
